US06136854
The cyclopentenone (30 mg), 10 mg of DMAP and 226 mg of n-decanoic acid (D0017 manufactured by Tokyo Kasei Kogyo) were dissolved in 5.9 ml of dichloromethane and then 108 mg of DCC was added thereto with ice cooling. After they were made to react for one hour, the reaction solution was separated and purified by means of a silica gel thin layer chromatography using chloroform as a developing solvent. The silica gel corresponding to Rf=0.35~0.45 was scratched off from the thin layer followed by extracting with chloroform to give 35 mg of didecanoylcyclopentenone.

reactant | cyclopentenone | 30 mg | C1(C=CCC1)=O | C5H6O
reactant | n-decanoic acid | 226 mg | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | DCC | 108 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5.9 ml | ClCCl | CH2Cl2
product | didecanoylcyclopentenone | 35 mg | C(CCCCCCCCC)(=O)C1=C(C(CC1)=O)C(CCCCCCCCC)=O | C25H42O3
